US07544697B2
2-Aminophenyl boronic acid hydrochloride (9.10 mg, 26.3 mmol) and freshly ground potassium phosphate tribasic (27.8 g, 131 mmol) were added sequentially to a solution of 4-bromo-5-(4-chlorobutyl)-1-propyl-1H-pyrazole-3-carbonitrile (8.00 g, 26.3 mmol), prepared as described in Example 46, in 100 mL of toluene in a pressure tube. Nitrogen was bubbled through the resultant slurry for 15 minutes. Tris(dibenzylideneacetone)dipalladium(0) (1.36 g, 1.31 mmol), bis[(2-diphenylphosphino)phenyl]ether (851 mg, 1.58 mmol), and 4 angstrom molecular sieves were then added to the reaction mixture. The pressure tube was sealed and heated in a 110° C. oil bath. After 24 hours, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate and filtered through CELITE filter aid. The filtrate was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The aqueous layer was extracted with additional ethyl acetate and the combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated to a red oil. Purification via flash column chromatography on silica gel (eluting with 2:1 hexane:ethyl acetate) afforded 7.60 g of 4-(2-aminophenyl)-5-(4-chlorobutyl)-1-propyl-1H-pyrazole-3-carbonitrile as a red oil.

reactant | 2-Aminophenyl boronic acid hydrochloride | 26.3 mmol, 9.10 mg | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium phosphate tribasic | 131 mmol, 27.8 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromo-5-(4-chlorobutyl)-1-propyl-1H-pyrazole-3-carbonitrile | 26.3 mmol, 8.00 g | BrC=1C(=NN(C1CCCCCl)CCC)C#N | C11H15BrClN3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 1.31 mmol, 1.36 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-aminophenyl)-5-(4-chlorobutyl)-1-propyl-1H-pyrazole-3-carbonitrile | 7.60 g | NC1=C(C=CC=C1)C=1C(=NN(C1CCCCCl)CCC)C#N | C17H21ClN4
